US07939666B2
Stage 2: (5-Amino-pyridin-3-yl)-methanol
5-Amino-nicotinic acid methyl ester (5.7 g, 30.2 mmol) was dissolved in THF (150 ml) and LiAlH4 (1M in THF solution 133 ml, 133 mmol) added slowly at 0° C. The reaction mixture was stirred at room temperature for 21 h. The reaction mixture was quenched and acidified to pH 3 using dilute HCl, and basified (pH 8) using solid Na2CO3. Solvents were removed under reduced pressure. The residue was filtered through silica gel using 20% MeOH/DCM yielding the product 3.8 g, (100%) with LCMS purity 97%, m/z 125 [M++H]+, by ELS.

reactant | 5-Amino-nicotinic acid methyl ester | 30.2 mmol, 5.7 g | COC(C1=CN=CC(=C1)N)=O | C7H8N2O2
reactant | LiAlH4 | 133 mmol, 1M, 133 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | (5-Amino-pyridin-3-yl)-methanol | NC=1C=C(C=NC1)CO | C6H8N2O
